US08629271B2
b) 2-(5-(Diethoxymethyl)thiophen-2-yl)ethanol
A mixture of 5-(2-(tert-butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde (example 21, step a) (1.37 g) and ammonium chloride (0.135 g) and triethyl orthoformate (0.928 mL) in ethanol (15 mL) was heated at reflux under nitrogen for 3 hours. Most of the ethanol was removed under reduced pressure and the remaining mixture was partitioned between ethyl acetate and saturated sodium bicarbonate solution, the organic layer was dried over sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was dissolved in THF (20 mL) and tetrabutylammonium fluoride (1M in THF, 5.07 mL) was added dropwise over 1 minute. The mixture was allowed to stand at room temperature for 30 minutes. The solvent was removed under reduced pressure and the residue was purified by flash silica chromatography eluting with 25% ethyl acetate in isohexane. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.940 g.

reactant | 5-(2-(tert-butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(S1)C=O | C13H22O2SSi
reactant | ammonium chloride | 0.135 g | [Cl-].[NH4+]
reactant | triethyl orthoformate | 0.928 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-(5-(Diethoxymethyl)thiophen-2-yl)ethanol | C(C)OC(C1=CC=C(S1)CCO)OCC | C11H18O3S
